US05461026
2-(2-Fluoro-1-hydroxyethyl)-N-[(4,6-dimethoxy-pyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide
To 0.88 g of 2-(1-acetoxy-2-fluoroethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide in 20 ml of methanol is added 0.25 g of lithium hydroxide monohydrate. The mixture is heated to reflux for 1 hour, then allowed to cool and the methanol is evaporated.

reactant | 2-(1-acetoxy-2-fluoroethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide | 0.88 g | C(C)(=O)OC(CF)C1=NC=CC=C1S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C16H18FN5O7S
reactant | lithium hydroxide monohydrate | 0.25 g | O.[OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-(2-Fluoro-1-hydroxyethyl)-N-[(4,6-dimethoxy-pyrimidin-2-yl)aminocarbonyl]-3-pyridinesulfonamide | FCC(O)C1=NC=CC=C1S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C14H16FN5O6S
